US05457128
Preparation of Cetraxate Cream A
A mixture comprising 100 grams of cetraxate hydrochloride, 10 grams of dibutyl adipate, 30 grams of propylene carbonate, 100 grams of olive oil, 30 grams of isopropyl myristate, 30 grams of isotridecyl myristate, 30 grams of behenyl alcohol, 40 grams of cetyl palmitate, 30 grams of stearic acid, 30 grams of polyoxy-ethylene (5)-glyceryl stearate, 30 grams of poly-ethylene glycol mono-stearate and 10 grams of polyoxy-ethylene (2) cetyl ether was dissolved by heating at 82° C. or higher to thereby yield a homogeneous solution (a solution A). Separately, 20 grams of di-isopropanol amine, 50 grams of isoprene glycol, 1 gram of propyl p-aminobenzoate and 1 gram of methyl p-aminobenzoate were added to ca. 450 ml of purified water, and the resulting mixture was warmed to 80° C. to thereby form a homogeneous dispersion (a dispersion B). While the dispersion B was held at 80° C., the solution A was added gradually to the dispersion B with vigorous stirring, thereby forming an emulsion. After completion of the addition of the solution A, the heating was suspended and allowed to cool to 60° to 55° C. Then, while stirring the resulting mixture at room temperature, purified water was added to the mixture cooled to 60° to 55° C. so as to make its total weight to 1 kg. The cream product was allowed to stand and bubbles were removed, followed by filling the cream in containers.

reactant | di-isopropanol amine | 20 grams | CC(CNCC(C)O)O | C6H15NO2
reactant | propyl p-aminobenzoate | 1 gram | NC1=CC=C(C(=O)OCCC)C=C1 | C10H13NO2
reactant | methyl p-aminobenzoate | 1 gram | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
solvent | water | ca. 450 ml | O | H2O
product | Cetraxate | C=1C(=CC=C(C1)OC(=O)[C@H]2CC[C@@H](CC2)CN)CCC(=O)O | C17H23NO4
